US07968725B2
d) 2-[2-(4-Fluoro-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pent-4-enoic acid methyl ester
To a solution of [2-(4-fluoro-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester (130 mg, 0.3 mmol) in THF (5 mL) at −78° C. under argon was added potassium bis(trimethylsilyl)amide (0.5 M solution in toluene, 600 μL, 0.3 mmol). After stirring for 30 minutes, 3-bromo-2-methylpropene (40 mg, 0.3 mmol) was added and stirred for 30 additional minutes. The reaction mixture was allowed to warm up slowly and stirred for another 30 minutes at 0° C. The mixture was then concentrated and purified by column chromatography on silica gel (0-8% ethyl acetate in heptane) to give the product as a colorless oil (80 mg, 60%). 1H NMR (300 MHz, CDCl3) δ 8.23 (d, J=8.29 Hz, 2H), 8.08-8.18 (m, 2H), 7.75 (d, J=8.29 Hz, 2H), 7.67 (d, J=1.88 Hz, 2H), 7.19 (t, J=8.85 Hz, 2H), 4.78 (d, J=18.08 Hz, 2H), 3.95 (dd, J=6.78, 9.04 Hz, 1H), 3.72 (s, 3H), 2.94 (dd, J=9.04, 14.69 Hz, 1H), 2.55 (dd, J=6.40, 14.69 Hz, 1H), 1.77 (s, 3H). MS m/e 444.3 (M+H).

reactant | [2-(4-fluoro-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester | 0.3 mmol, 130 mg | COC(CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)F)=O | C21H15F4NO2
reactant | potassium bis(trimethylsilyl)amide | 0.3 mmol, 0.5 M, 600 μL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-bromo-2-methylpropene | 0.3 mmol, 40 mg | BrCC(=C)C | C4H7Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[2-(4-Fluoro-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pent-4-enoic acid methyl ester | 80 mg, 60% | COC(C(CC(=C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)F)=O | C25H21F4NO2
